* ACT (субсхема из нетлиста KiCad)
.subckt ACT FB_M1 FB_M2 FB_M2_RAW FB_M3 FB_M3_RAW FB_M4 FB_M4_RAW GND ILIM_1 ILIM_2 ILIM_3 ILIM_4 M1_IN1 M1_IN2 M2_IN1 M2_IN2 M3_IN1 M3_IN2 M4_IN1 M4_IN2 MOTOR_1_A MOTOR_1_B MOTOR_2_A MOTOR_2_B MOTOR_3_A MOTOR_3_B MOTOR_4_A MOTOR_4_B VCC_12V
  C12 VCC_12V GND 100n
  C13 VCC_12V GND 100n
  C14 VCC_12V GND 100n
  C15 VCC_12V GND 100n
  C28 FB_M1 GND 100n
  C29 FB_M2 GND 100n
  C30 FB_M3 GND 100n
  C31 FB_M4 GND 100n
  R3 ILIM_1 GND 33k
  R32 FB_M1 GND 20k
  R33 FB_M2_RAW FB_M2 10k
  R34 FB_M2 GND 20k
  R35 FB_M3_RAW FB_M3 10k
  R36 FB_M3 GND 20k
  R37 FB_M4_RAW FB_M4 10k
  R38 FB_M4 GND 20k
  R4 ILIM_2 GND 33k
  R5 ILIM_3 GND 33k
  R6 ILIM_4 GND 33k
  XU2 M1_IN1 M1_IN2 MOTOR_1_A MOTOR_1_B VCC_12V GND DRV8871
  XU3 M2_IN1 M2_IN2 MOTOR_2_A MOTOR_2_B VCC_12V GND DRV8871
  XU4 M3_IN1 M3_IN2 MOTOR_3_A MOTOR_3_B VCC_12V GND DRV8871
  XU5 M4_IN1 M4_IN2 MOTOR_4_A MOTOR_4_B VCC_12V GND DRV8871
.ends ACT
